US05527967
An electrolysis cell as described in Example 1 is used. The electrolyte comprises 70 ml of dimethylformamide (max. 0.1% of water), 0.4 g of anhydrous magnesium chloride and 6.62 g (0.030 mol) of chlorodiphenylphosphine. The electrolysis is carried out as described in Example 1. The electrolysis temperature is 25° C. After an amount of charge of 0.96 Ah, the electrolysis is ended. 4.64 g (0.025 mol) of benzyltrimethylammonium chloride are then introduced into the electrolyte with exclusion of air and the mixture is stirred at 35° C. After 3 h the reaction mixture contains, according to analysis by gas chromatography (internal standard: 2-methylnaphthalene), 5.72 g of benzyldiphenylphosphine (yield 83%, based on benzyltrimethylammonium chloride used) which can be isolated by workup as described in Example 1.

reactant | magnesium chloride | 0.4 g | [Cl-].[Mg+2].[Cl-]
reactant | chlorodiphenylphosphine | 0.030 mol, 6.62 g | ClP(C1=CC=CC=C1)C1=CC=CC=C1 | C12H10ClP
reactant | 2-methylnaphthalene | CC1=CC2=CC=CC=C2C=C1 | C11H10
catalyst | benzyltrimethylammonium chloride | 0.025 mol, 4.64 g | [Cl-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | benzyldiphenylphosphine | 5.72 g, yield 83% | C(C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C19H17P
